US08115012B2
Preparation of ethyl 2-ethoxymethylene-4,4,4-trifluoro-3-oxobutyrate
In a 500 ml four-necked flask with stirrer, 78.3 g (0.425 mol) of trifluoroacetoacetate ethyl-(4,4,4-trifluoro)-3-oxobutyrate, 103.3 g (0.638 mol) of triethyl orthoformate and 130.0 g (1.275 mol) of acetic anhydride were mixed and heated at 120° C. for 6 hours. Then, at atmospheric pressure, initially the low-boiling components were removed and the product was then distilled under reduced pressure over a column. This gave 91.8 g (yield 90%) of the title compound as a colorless liquid of a purity>98%.

reactant | trifluoroacetoacetate ethyl-(4,4,4-trifluoro)-3-oxobutyrate | 0.425 mol, 78.3 g | C(C)OC(CC(C(F)(F)F)=O)=O.FC(C(CC(=O)O)=O)(F)F
reactant | triethyl orthoformate | 0.638 mol, 103.3 g | C(OCC)(OCC)OCC | C7H16O3
reactant | acetic anhydride | 1.275 mol, 130.0 g | C(C)(=O)OC(C)=O | C4H6O3
product | ethyl 2-ethoxymethylene-4,4,4-trifluoro-3-oxobutyrate | 91.8 g, yield 90% | C(C)OC=C(C(=O)OCC)C(C(F)(F)F)=O | C9H11F3O4
